US05021577
1,4-Bis(4-benzoyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)-2-cyclohexene
A mixture of 43.6 grams (122 mmol) of the compound prepared in Example lA, 40.5 grams (147 mmol) of 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine, 17.8 grams (122 mmol) of di-tert-butyl peroxide and 50 ml of 1,2-dichlorobenzene is heated at 135° C. for 5.5 hours in a Fisher-Porter pressure bottle. Fresh di-tert-butyl peroxide (8.0 grams, 55 mmol) is added and the reaction mixture is heated at 135° C. for an additional three hours. The crude reaction mixture is purified by flash chromatography on silica gel (hexane; then 100:3 heptane:ethyl acetate) to afford 4.0 grams of the title compound as a while solid melting at 140°-142° C.

reactant | 4-benzoyloxy-1-oxyl-2,2,6,6-tetramethylpiperidine | 147 mmol, 40.5 grams | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
reactant | di-tert-butyl peroxide | 122 mmol, 17.8 grams | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | di-tert-butyl peroxide | 55 mmol, 8.0 grams | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | 1,2-dichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,4-Bis(4-benzoyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)-2-cyclohexene | 4.0 grams | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC1C=CC(CC1)ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)(C)C | C38H52N2O6
